US08049013B2
2-(4-Chloro-phenyl)-4-(2-hydroxy-ethyl)-thiazole-5-carboxylic acid
Dissolve 2-[2-(4-chloro-phenyl)-thiazol-4-yl]-ethanol (107 g gross, 91 g net, 380 mmol) in THF (1210 mL) and cool to about −75° C. Evacuate the chilled solution under vacuum and fill with nitrogen three times. Slowly add n-BuLi (1.6 M in hexanes, 530 mL, 848 mmol) over approximately 4 h, keeping the temperature<−70° C. Slowly add the red-purple solution via cannula over 3.5 h to a flask containing −75° C. THF that has been saturated with CO2 gas (approximately 390 g) keeping the temperature<−60° C. Charge the resulting brown slurry with additional CO2 gas (approximately 355 g) and then allow the slurry to come to room temperature while stirring mechanically overnight. Quench the reaction with 1 N HCl (3000 mL), cool to 16° C., and collect the precipitate by filtration. Rinse the solid with hexanes (1400 mL) and dry under vacuum to give 81.3 g (75%) of the title compound. ES/MS m/z (35Cl) 284.0 [M+1]+.

reactant | 2-[2-(4-chloro-phenyl)-thiazol-4-yl]-ethanol | 380 mmol, 107 g | ClC1=CC=C(C=C1)C=1SC=C(N1)CCO | C11H10ClNOS
reactant | n-BuLi | 848 mmol, 1.6 M, 530 mL | [Li]CCCC
reactant | CO2 | approximately 390 g | C(=O)=O | CO2
reactant | CO2 | approximately 355 g | C(=O)=O | CO2
solvent | THF | 1210 mL | C1CCOC1 | C4H8O
product | 2-(4-Chloro-phenyl)-4-(2-hydroxy-ethyl)-thiazole-5-carboxylic acid | 81.3 g, 75% | ClC1=CC=C(C=C1)C=1SC(=C(N1)CCO)C(=O)O | C12H10ClNO3S
